US09290490B2
To a solution of benzyl {trans-4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]cyclohexyl}-carbamate (895 mg, 2.48 mmol) in dichlormethane at −78° C. was added boron tribromide (1.0 M in dichloromethane, 2.7 mL, 2.7 mmol) dropwise. After one hour, the solution was warmed to 0° C. Another portion of boron tribromide (1.0 M in dichloromethane, 2.7 mL, 2.7 mmol) was then added dropwise and the reaction was allowed to warm to room temperature. The solution was then carefully diluted with methanol and concentrated in vacuo. The residue was purified by chromatography on silica gel to afford 1-(trans-4-aminocyclohexyl)-1-(1,3-thiazol-2-yl)ethanol. MS ESI calc'd. for C11H19N2OS [M+H]+ 227. found 227. 1H NMR (500 MHz, DMSO-d6) δ 7.67 (d, J=3.3, 1H), 7.51 (d, J=3.2, 1H), 5.69 (s, 1H), 2.46-2.39 (m, 1H), 1.80-1.65 (m, 3H), 1.63-1.50 (m, 1H), 1.43 (s, 3H), 1.40-1.32 (m, 1H), 1.24-1.11 (m, 1H), 1.03-0.86 (m, 3H).

reactant | benzyl {trans-4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]cyclohexyl}-carbamate | 2.48 mmol, 895 mg | OC(C)(C=1SC=CN1)[C@@H]1CC[C@H](CC1)NC(OCC1=CC=CC=C1)=O | C19H24N2O3S
reactant | boron tribromide | 2.7 mmol, 1.0 M, 2.7 mL | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 2.7 mmol, 1.0 M, 2.7 mL | B(Br)(Br)Br | BBr3
solvent | dichlormethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 1-(trans-4-aminocyclohexyl)-1-(1,3-thiazol-2-yl)ethanol | N[C@@H]1CC[C@H](CC1)C(C)(O)C=1SC=CN1 | C11H18N2OS
